US07368578B2
A mixture of {4-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-2-phenylpyrimidin-5-yl}methanol (2.10 g), activated manganese dioxide (8.40 g) and tetrahydrofuran (80 mL) was stirred at room temperature for 3 hrs. Manganese dioxide was removed by filtration, and the filtrate was concentrated. Recrystallization of the obtained crystal from ethyl acetate-hexane gave 4-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-2-phenylpyrimidine-5-carbaldehyde as colorless prism crystals (1.50 g, yield 72%). melting point: 143-144° C.

reactant | {4-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-2-phenylpyrimidin-5-yl}methanol | 2.10 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NC(=NC=C2CO)C2=CC=CC=C2)C=C1)OC)C | C28H25N3O6
catalyst | manganese dioxide | 8.40 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 4-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-2-phenylpyrimidine-5-carbaldehyde | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NC(=NC=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C28H23N3O6
